US07981903B2
Step B/Intermediate D46: 2,4-dichloro-5-fluoro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine
A solution of 2,4-dichloro-5-fluoro-1H-pyrrolo[2,3-d]pyrimidine (1.65 g, 8.01 mmol, crude material from abovefl) in dichloromethane (100 ml) was treated with DIPEA (2.80 ml, 16.02 mmol) and p-toluenesulfonylchoride (1.756 g, 9.21 mmol) and stirred for 24 hours. The mixture was poured into saturated sodium bicarbonate/DCM and the organic layer was dried over sodium sulfate, filtered, stripped onto celite, and purified by column chromatography (10% EtOAc/Hex). The chromatographic residue (still containing multiple impurities) was further purified with a 65% isocratic MeCN mobile phase on a Luna C18 5 um, 21×150mm column, 20 mL/min, UV @275 nm. The final purity of 2,4-dichloro-5-fluoro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine was estimated at 99.5% at 254 nm using the same method (1.128 g). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.23 (d, J=2.20 Hz, 1H), 7.96 (d, J=8.24 Hz, 2H), 7.47 (d, J=8.79 Hz, 2H), 2.34 (s, 3H).

reactant | 2,4-dichloro-5-fluoro-1H-pyrrolo[2,3-d]pyrimidine | 8.01 mmol, 1.65 g | ClC1=NC(=C2C(N1)=NC=C2F)Cl | C6H2Cl2FN3
reactant | DIPEA | 16.02 mmol, 2.80 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | p-toluenesulfonylchoride | 9.21 mmol, 1.756 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium bicarbonate DCM | C([O-])(O)=O.[Na+].C(Cl)Cl
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2,4-dichloro-5-fluoro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | ClC=1N=C(C2=C(N1)N(C=C2F)S(=O)(=O)C2=CC=C(C=C2)C)Cl | C13H8Cl2FN3O2S
